US09210927B2
Preparation of (E)-(3-Chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)pyridin-2-yl)methanamine (CI65)
To a stirred solution of (E)-2-((3-chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)pyridin-2-yl)methyl)isoindoline-1,3-dione (200 mg, 0.358 mmol) in EtOH (5 mL) was added hydrazine hydrate (89.6 mg, 1.79 mmol), and the reaction mixture was heated at reflux for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in CH2Cl2. The organic layer was washed with H2O and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to afford the title compound as a solid (100 mg). The product obtained in this reaction was carried on to the next step without further purification.

reactant | (E)-2-((3-chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)pyridin-2-yl)methyl)isoindoline-1,3-dione | 0.358 mmol, 200 mg | ClC=1C(=NC=C(C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CN1C(C2=CC=CC=C2C1=O)=O | C24H13Cl4F3N2O2
reactant | hydrazine hydrate | 1.79 mmol, 89.6 mg | O.NN
solvent | EtOH | 5 mL | CCO | C2H6O
product | (E)-(3-Chloro-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)pyridin-2-yl)methanamine | 100 mg | ClC=1C(=NC=C(C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CN | C16H11Cl4F3N2
